US08629148B2
74.1 3-(2-Ethoxypyridin-3-yl)-3-[4-(4-methylpiperazin-1-ylmethyl)phenylamino]-2-oxo-2,3-dihydro-1H-indole-5-carbonitrile
4-(4-Methyl-piperazin-1-ylmethyl)phenylamine (425 mg, 2.07 mmol) was added to a solution of 3-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indole-5-carbonitrile (500 mg, 1.59 mmol) in dichloromethane (50 ml) and DIPEA (0.27 ml, 159 mmol) at 0° C. The reaction mixture was stirred at room temperature for 2 h and then an aqueous NaHCO3 solution was added. The aqueous reaction mixture was extracted with dichloromethane. The combined organic phase was dried over magnesium sulfate, filtered and concentrated at reduced pressure. Purification by chromatography (silica gel, 0-20% methanol in dichloromethane) afforded 791 mg of the title compound (99% yield).

reactant | 4-(4-Methyl-piperazin-1-ylmethyl)phenylamine | 2.07 mmol, 425 mg | CN1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3
reactant | 3-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indole-5-carbonitrile | 1.59 mmol, 500 mg | ClC1(C(NC2=CC=C(C=C12)C#N)=O)C=1C(=NC=CC1)OCC | C16H12ClN3O2
reactant | DIPEA | 159 mmol, 0.27 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(2-Ethoxypyridin-3-yl)-3-[4-(4-methylpiperazin-1-ylmethyl)phenylamino]-2-oxo-2,3-dihydro-1H-indole-5-carbonitrile | 791 mg, 99% yield | C(C)OC1=NC=CC=C1C1(C(NC2=CC=C(C=C12)C#N)=O)NC1=CC=C(C=C1)CN1CCN(CC1)C | C28H30N6O2
